*$
*PART NUMBER: NJU7045
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP WITH SHUTDOWN
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.SUBCKT NJU7045   IN- IN+ VSS OUT VDD SHDN
ESH1         REF 0 VALUE 
+ { IF(V(SHDN1)>V(VDD)*0.299,V(VDD)*0.305,V(VDD)*0.7) }
RSH1         EO SHDN1  100  
CSH1         SHDN1 0  10p  
RSH2         REF 0  1G  
ESH2         EO 0 VALUE { IF(V(SHDN)>V(REF),V(VDD)*0.7,0) }
M1   4  IN+ 3 3 PIX L=6E-6 W=25E-6
M2   6  7 3 3 PIX L=6E-6 W=22.8E-6
RC1  4 VSS 4.833E3
RC2  6 VSS 4.833E3
C1   4  6 2E-12
I1  VDD  8 50u
M3  10  IN+ 12 12 NIX L=6E-6 W=25E-6
M4  11  7 12 12 NIX L=6E-6 W=25E-6
RC3 10 VDD 4.833E3
RC4 11 VDD 4.833E3
C2  10 11 2E-12
I2  13 VSS 50u
EOS  7  IN- POLY(3) (21,98) (73,98) (61,0) 1E-3 0.05 0.05 1
IOS1  IN+ 98 1.5E-12
IOS2  IN- 98 1.5E-12
V1  VDD  9 0.9
D1   3  9 DX
V2  14 VSS 0.9
D2  14 12 DX
S1   3  8 82 98 SOPEN
S2  VDD  8 98 82 SCLOSE
S3  12 13 82 98 SOPEN
S4  13 VSS 98 82 SCLOSE
ECM1 20 98 POLY(2) (IN+,98) (IN-,98) 0 .5 .5
RCM1 20 21 700000
CCM1 20 21 100e-12
RCM2 21 98 14.3k
RPS1 70  0 1E6
RPS2 71  0 1E6
CPS1 VDD 70 1E-5
CPS2 VSS 71 1E-5
EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
RPS3 72 73 1.59E6
CPS3 72 73 500E-12
RPS4 73 98 80
EREF 98  0 POLY(2) (VDD,0) (VSS,0) 0 .5 .5
GSY  VDD VSS POLY(1) (VDD,VSS) 20E-6 10E-7
E1 81 98 (SHDN1,VSS) 1
R1 81 82 1E3
C3 82 98 0.98E-9
VN1 60 0 0
RN1 60 0 16.45E-3
HN  61 0 VN1 30
RN2 61 0 1
G2  98 30 POLY(2) (4,6) (10,11) 0 145u 145u
R2  30 98 5.066E6
CF  OUT 30 24E-12
S5  30 98 98 82 SCLOSE
D3  30 31 DX
D4  32 30 DX
V3  VDD 31 1.37
V4  32 VSS 1.37
M5  OUT 46 VDD VDD POX L=1.5E-6 W=435u
M6  OUT 47 VSS VSS NOX L=1.5E-6 W=435u
EG1 VDD 48 POLY(1) (98,30) 0.78925 1
EG2 49 VSS POLY(1) (30,98) 0.78925 1
RG1 48 46 10E3
RG2 49 47 10E3
S6  46 VDD 98 82 SCLOSE
S7  47 VSS 98 82 SCLOSE
ROUT OUT 0 12.5MEG
COUT OUT 10 5000F
.model nix nmos (vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 
+ cgso=4e-9 cgdo=4e-9 cgbo=3.667e-6 cbs=10.5e-5 cbd=9.5e-7)
.model nox nmos (vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=66.667e-12 cgdo=66.667e-12 cgbo=125e-9
+ cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos (vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1
+ cgso=4e-9 cgdo=4e-9 cgbo=76.667e-8 cbs=2.34e-12 cbd=20.534e-12)
.model pox pmos (vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=76.667e-9 cgdo=130.667e-10 cgbo=125e-9
+ cbs=2.34e-13 cbd=2.34e-13)
.MODEL SOPEN VSWITCH(VON=2.4,VOFF=0.8,RON=10,ROFF=1E9)
.MODEL SCLOSE VSWITCH(VON=-0.8,VOFF=-2.4,RON=10,ROFF=1E9)
.MODEL DX D(IS=1E-12)
.ENDS
*$

